US07981886B2
6-{[trans-4-(4-methyl-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one
Using 4-methyl-benzothiazole (5 mmol, obtained by reductive deamination of 2-amino-4-methylbenzothiazole), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde (0.3 mmol) in according to the same protocol as that described for example 1, steps 1.a to 1.c, the title compound was obtained as a yellowish solid (55 mg).

reactant | 4-methyl-benzothiazole | 5 mmol | CC1=CC=CC2=C1N=CS2 | C8H7NS
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 0.3 mmol | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
product | 6-{[trans-4-(4-methyl-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one | CC1=CC=CC2=C1N=C(S2)C(=O)[C@@H]2CC[C@H](CC2)NCC=2C=CC1=C(NC(CS1)=O)C2 | C24H25N3O2S2
